US05310897
A solution of (3S,4S)-3-[(1R)-1-benzyloxycarbonyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one (81.50 g) in ethanol (800 ml) was subjected to hydrogenation at room temperature in the presence of 10% palladium-carbon (8.15 g) under atmospheric pressure, followed by filtration to remove the catalyst. The filtrate and the washings were combined and evaporated to give (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-benzyloxycarbonyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | 81.50 g | C(C1=CC=CC=C1)OC(=O)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C29H35NO8
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 8.15 g | [C].[Pd]
product | (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)O)CC(=O)OC(C)(C)C)=O | C14H23NO6
